Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
diarrhea
 
Major Surgical or Invasive Procedure:
1. TTE ___ " IMPRESSION: Normal global and regional 
biventricular systolic function. Mild aortic stenosis and 
regurgitation. At least moderate mitral regurgitation. Moderate 
pulmonary artery systolic hypertension. Biatrial enlargement." 
 
2. Multiple CXRs 
3. BLE US 
4. R PICC placement, removal 
5. L wrist Xray -___ "1. No acute fracture. 2. Widening of 
the scapholunate interval is compatible scapholunate  
ligamentous injury. 3. Severe degenerative changes of the STT 
and first CMC joints. Apparent collapse of the trapezoid and 
trapezium as described." 

 
History of Present Illness:
___ y/o F with CAD ___ stents, PAF on coumadin, HTN transferred 
from OS___ for further management of C.diff sepsis and volume 
overload. The patient underwent elective left total hip 
replacement at ___ on ___. She developed diarrhea while at 
rehab post-operatively, however it is unclear from outside 
records whether this occurred in the setting of antibiotic 
therapy. After discharge from rehab she was prescribed PO flagyl 
and immodium for persistent diarrhea. She was subsequently 
admitted to ___ on ___ for dehydration. She was 
treated with PO vancomycin, PO flagyl, and IV flagyl for C. diff 
colitis (positive toxin assay on ___, and IVF for acute renal 
failure. WBC was ___. Abd/pelvis CT on ___ revealed diffuse 
colonic wall thickening but no bowel obstruction, and moderate 
ascites with generalized mesenteric inflammation/edema.  She was 
transfused on ___, 3 U FFP on ___, and 1 U PRBC and 3 U FFP. 
She was loaded with amiodarone for AFib. Right IJ CVC was placed 
on ___ for massive volume resuscitation and pressors (it 
appears she received neosynephrine f/b dopamine prior to 
transfer) in the setting of hypotension. She was then treated 
with albumin and lasix. ABG the morning of transfer 
___. At the time of transfer, she was receiving 
dopamine 2 mcg/kg/min and non-invasive mask ventilation, both of 
which were discontinued upon arrival. 
.
ROS: + unproductive cough, dry mouth, nausea with food/drink
     - fever, chills, sweats, HA, dizziness, lightheadedness, 
CP, 
       SOB, vomiting, abd pain, hematochezia, melena, calf pain 

 
Past Medical History:
CAD ___ stenting of LCx and RCA per OMR cath report ___
PAF
___ DVT 
HTN
hyperlipidemia
urinary incontinence
osteoporosis
___ ORIF and LTH 
___ hepatobiliary surgery
___ hysterectomy
___ cholecystectomy
___ RTK x 1, LTK x 2

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
PE - V/S: T99.2 HR 75 BP 120/66 RR 17 O2sat 99% on 4 L NC CVP 6 
cmH20
GEN: Awake, alert elderly female comfortable
HEENT: R > L pupil, reactive; sclera anicteric; very dry mucous 
membranes with crust-covered tongue; 
NECK: no bruit
CV: irreg irreg nl S1S2 IV/VI cres-decres murmur at base, III/VI 
diastolic murmur at apex
PULM: diffuse rhonchi, decr. breath sounds at bases, no wheezes 
ABD: distended, soft, NT +BS, no rebound, guarding
EXT: warm, dry; trace pitting edema 
NEURO: A+O x 3 
 
Pertinent Results:
Admit EKG:
EKG: AFib HR 73, LAD, nl intervals, diffuse TW flattening, 
unchanged c/w prior exam ___
.
Micro: C. diff toxin positive - ___
.
Imaging: ___bd/pelvis - 1. Diffuse colonic wall 
thickening but no bowel obstruction. 2. Moderate ascites with 
generalized mesenteric inflammation/edema. 3. Surgical clips in 
the porta hepatis with some ___ represent reflux 
from the GI system. 
___ and ___ bilateral ___ duplex U/S - negative for DVT
___ V/Q - low prob for PE
___ CXR - bilateral pulmonary opacities, read pending
.
149  115  37   
--------------< 101 
3.3  29  1.1  
CK: 15  MB: 4  Trop-T: 0.10  
Ca: 9.0 Mg: 2.0 P: 2.9
ALT: 9 
AST: 12 
LDH: 114 
___: 42 
Lip: 56
AP: 118 Tbili: 0.6 Alb: 2.9 
TSH:4.4 Vit-B12:831 Folate:13.2 
___: 22830
.
Iron: 21 
calTIBC: 81 
Ferritn: 518 
TRF: 62
.
WBC: 11.8
HCT: 30
PLT: 215
N:89.5 Band:0 L:6.6 M:3.6 E:0.2 Bas:0.1 
.
Ret-Aut: 0.9 
.
___: 17.2  PTT: 36.9  INR: 1.6  
.
Echo:
The left atrium is mildly dilated. The left atrial volume is 
markedly increased (>32ml/m2). Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%) There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened. There is mild 
aortic valve stenosis (area 1.2-1.9cm2). Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Moderate (2+) 
mitral regurgitation is seen. [Due to acoustic shadowing, the 
severity of mitral regurgitation may be significantly 
UNDERestimated.] The tricuspid valve leaflets are mildly 
thickened. Moderate [2+] tricuspid regurgitation is seen. There 
is moderate pulmonary artery systolic hypertension. There is a 
trivial/physiologic pericardial effusion. 

IMPRESSION: Normal global and regional biventricular systolic 
function. Mild aortic stenosis and regurgitation. At least 
moderate mitral regurgitation. Moderate pulmonary artery 
systolic hypertension. Biatrial enlargement.
 
Brief Hospital Course:
___ y/o F with CAD ___ stents, PAF on coumadin, HTN transferred 
from OSH for management of C. difficile septic shock.  She was 
profoundly volume overloaded but stable off pressors and 
non-invasive ventilation.  
.
#C. diff - she was no longer septic upon arrival.  Per ID recs, 
pt was treated w po Vancomycin, last day ___. Pt does have 
diarrhea still but was seen by ID again, who felt that it is 
unlikely to be from Cdiff and recommended discontinuing vanc on 
___. Cdiff X3 on ___ and ___ have been neg.  Diarrhea 
may be secondary to tube feeds.  Should pt have any change such 
as fever, abdominal pain, worsening diarrhea, please check ___ 
toxins again
.
# CHF: Came in with acute on chronic diastolic CHF and profound 
fluid overload.  Echo showed nl LVEF but Mild AR, mod MR, mod 
TR.  Pt was placed on lasix gtt and diuresed aggressively. when 
transferred to the floor, pt did not have any edema on exam, she 
still had persistent but improving pleural effussions, and lasix 
had to be briefly held, as by labs she appeared volume 
contracted.  Pt has now been restarted on lasix 20mg po BID, 
which should be adjusted based on clinical status. Please follow 
___ periodically  to ensure pt is not developing acute renal 
failure

#AFib - In MICU, she developed afib with RVR.  Received 5 IV 
lopressor then had HR in the ___ transiently.  Pt had one other 
episode of transient asymptomatic bradycardia during sleep noted 
on tele. Pt was loaded with IV amio in MICU and now on amio 
200mg QD. Oral metoprolol has slowly been titrated and pt has 
tolerated it well. On floor, pt's HR remained in 100-110's at 
baseline w/ occ 130-140's w/ actitivty. Metoprolol should be 
continued to be titrated as long as bp allows. Pt has both Afib 
and hx of DVT and is being transitioned w lovenox to coumadin. 
Coumadin was increased from 2 to 3mg QD on ___, INR yesterday 
was still 1.2. Please titrate coumadin for a goal INR of 2.0-3.0 
and discontinue lovenox when INR therapeutic. 
.
# LOWER GI BLEED:
In the MICU, the patient was noted to have a small amount of 
blood clots and liquid blood in the rectal tube.   Lovenox and 
coumadin were temporarily held, although aspirin was continued.  
NG lavage was performed and was negative.  The GI service was 
consulted and deferred a colonoscopy.  Ultimately, it was felt 
that her bleeding may have been from the rectal tube.  Received 
1u pRBC on ___.  Hct stable thereafter without any further GIB.  
Pt was restarted on lovenox and coumadin on ___.  Pt's H/H 
remained stable on the floor but gradually drifted down from 25 
to 22. Given that pt has CAD, it was decided to transfuse 2 
units pRBC the day before transfer to ___ Rehab hospital. Pt's 
HCT appropriately rose from 22 to 30 on day of discharge.

#Cough - Pt has productiver cough w/ whitish sputum but has 
remained afebrile w nl WBC. CXR continues to show stable B 
pleural effussions. Pt will need ipratropium (avoid albuteral 
given afib) nebs and frequent suctioning to clear secretions. Pt 
was needing 2L oxygen and sats were 96-99% on it. 

#CAD - many risk factors, but low clinical suspicion for an 
event.  Trop only mildly elevated.  She was on ASA.  Lisinopril 
was discontinued to allow uptitration of metoprolol and should 
be started when bp allows.

.
#Hx of HTN - pt's bp gradually improving, was borderline in the 
90-100's before. Pt on metoprolol and lasix. Once metoprolol has 
been titrated, if bp allows, ACE-I should be started given CAD  
.
# Contact: ___, husband, ___ (home)
PCP: ___. ___
.
# Code: DNR DNI
.

 
Medications on Admission:
Meds (on admission to OSH):
coumadin 2.5 mg daily
___
benazapril
imdur
toprol XL
tricor
HCTZ
.
Meds (on transfer): 
flagyl 500 mg PO q8
flagyl 500 mg IV q8
vanco 250 mg PO QID
digoxin 0.25 mg PO daily
amiodarone 400 mg PO daily
albumin 25% 25 g IV q6
cholestyramine 1 packet QID
dopamine gtt
lasix 60 mg IV daily
heparin 5000 U TID
dilaudid 1 mg IV q4
lactinex
reglan 10 mg IV q6
protonix 40 mg IV q12
ambien 5 mg qHS
tylenol PRN   
.
All: PCN 
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical QID 
(4 times a day) as needed: to inguinal region.  
3. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed: for sleep.  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever>101.  
5. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO once a day.  
6. Enoxaparin 60 mg/0.6 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours).  
7. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 4 
___.  
9. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
10. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q4H (every 4 hours).  
11. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours) as needed: for wheezing, sob, cough.  
12. Lasix 20 mg Tablet Sig: One (1) Tablet PO twice a day.  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cdiff colitis
Anemia
Atrial Fibrillation
Hx diastolic heart failure
Moderate MR
CAD ___ stents
Hx of ___ DVT
DJD
Hx of knee/hip replacements
Hx of osteopenia
Hx of Rheumatic Fever
Hx of HTN
Hx of Urge incontinence

 
Discharge Condition:
Good

 
Discharge Instructions:
You were admitted to this hospital from another hospital because 
you had severe infection w/ C.diff colitis. You were given 
fluids and developed fluid overload. You were admitted to the 
ICU and diuretics were given to remove the fluid. 
You were seen by ID and they decided to treat you with oral 
vancomycin. Your therapy is complete on ___ and although you 
are still having some diarrhea, it is thought to not be due to 
persistent infection by ID. Should you notice worsening or 
bloody diarrhea, abdominal pain, or fevers/chills, please return 
to ED
You have atrial fibrillation and we have been adjusting 
medications to control your heart rate.
You are also anemic. At one point, you did have some bleeding 
due to irritation from the rectal tube but your blood count 
remained stable and you were evaluated by GI doctors who did not 
want to do a colonoscopy. You did receive 2 units of blood 
because you were very anemic. Should you notice blood in stool, 
black stools or active bleeding anywhere, please see a doctor 
right away
You ___ be working with therapists and nutritionists at the 
rehab facility
 
Followup Instructions:
___